US07872017B2
5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
5-Bromo-1H-pyrrolo[2,3-b]pyridine (Chemgenx, 0.90 g, 4.57 mmol) was coupled with bis(pinacolato)diboron (Aldrich, 1.27 g, 5.0 mmol) according to the procedure of Example 10A. 1H NMR (300 MHz, CDCl3) δ 1.37 (s, 12H) 6.52 (d, J=3.73 Hz, 1H), 7.38 (d, J=3.73 Hz, 1H), 8.34 (d, J=1.36 Hz, 1H), 8.49 (d, J=1.70 Hz, 1H) ppm; m/z 245 (M+H)+.

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 4.57 mmol, 0.90 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | bis(pinacolato)diboron | 5.0 mmol, 1.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
